US08003703B2
(i) 2-(Benzyloxy)-4-chlorophenol
Sulfuryl chloride (0.965 ml) was added to a stirred solution of 2-(benzyloxy)phenol (2.0 g) in dry toluene (20 ml) at 0° C. The mixture was warmed to RT and stirred overnight then cooled to 0° C. and quenched with ice-water before extracting with ethylacetate. The organics were dried, evaporated under reduced pressure and the residue purified by chromatography on silica eluting with DCM/isohexane (1:1). Yield 1.5 g

reactant | Sulfuryl chloride | 0.965 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-(benzyloxy)phenol | 2.0 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)O | C13H12O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(Benzyloxy)-4-chlorophenol | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)Cl)O | C13H11ClO2
